US04590201
A solution of 3,4,5-trichlorobenzamide (25.0 g, 111 mmol) and potassium 4-chlorothiophenolate (29.0 g, 159 mmol) in dimethylformamide (220 ml) was stirred for 3 days at ambient temperature under nitrogen atmosphere, poured into ice water (2.2 L), and filtered. The solid was washed with water, partially dried under vacuum, suspended in diethyl ether (200 ml), filtered, and washed with diethyl ether (2×75 ml). The residue was triturated with diethyl ether (75 ml), filtered, again triturated with diethyl ether (75 ml), filtered, and dried under vacuum to provide 21.2 g (57%) of 4-(4-chlorophenylthio)-3,5-dichlorobenzamide, m.p. 171°-174° C.

reactant | 3,4,5-trichlorobenzamide | 111 mmol, 25.0 g | ClC=1C=C(C(=O)N)C=C(C1Cl)Cl | C7H4Cl3NO
reactant | potassium 4-chlorothiophenolate | 159 mmol, 29.0 g | ClC1=CC=C(C=C1)[S-].[K+]
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenylthio)-3,5-dichlorobenzamide | 21.2 g, 57% | ClC1=CC=C(C=C1)SC1=C(C=C(C(=O)N)C=C1Cl)Cl | C13H8Cl3NOS
